US08383847B2
Attempts made by earlier researchers were not fruitful in enriching ricinoleic content in the castor oil/castor fatty acids to the desired extent. Achaya et al., worked in the fractionation of castor oil by LLE using petroleum ether into triricinolein, diricinolein and monoricinolein there by obtaining ricinoleic acid of enhanced purity with lesser yields. (K. T. Achaya, S. A. Salitore, J. Sci & Ind. Res., 1952, vol 11, 471-474). In another attempt, castor oil was partitioned using acid washed hexane and the resulting triricinoleins were once urea-adducted to remove the bulk of non-hydroxy acids present and re-aducted to give ricinoleic acid of good quality in about 40% yield on the weight of the castor oil taken. {(Subramanyam V. V. R and Achaya K. T., J. Sci. Indust. Res. 20D (1961), 45)}. Another report describes a partition procedure for the preparation of ricinoleic acid of high purity in over 80% yield directly from castor oil fatty acids without the need for isolating triricinolein. {(K. J. Philip, P. Venkatrao and K. T. Achaya, Indian Journal of Technology, vol 1 No. 11 (1963), 427-431)}. The mixed fatty acids of castor oil were partitioned using Gunstone's procedure {(Gunstone, F. D. J. Chem. Soc. (1954), 1611; Bharucha, K. E and Gunstone F. D., J. Chem. Soc., (1957), 610)} between petroleum ether (40-60° C.) and 80% methanol which had been initially equilibrated with each other. The petroleum ether was taken in three separating funnels and the fatty acids added to the first along with methanol, after through shaking and settling the lower methanol layer was passed successively through the other two funnels. The first separating funnel was again extracted with fresh methanol which is then passed through the series. The same was done with two more lots of methanol. Finally the four methanol extracts and the three petroleum extracts were combined and the respective fatty acids isolated and analyzed (K. J. Philips et al. Indian Journal of Technology, vol 1 No. 11 (1963), 427-431)}. Hawke et al., reported that the mixed fatty acids drop rapidly in acid value and acetyl value by estolide formation even on standing for a few days at room temperature. {(Hawke F & Kohll, E. A., J. S. Afr. Chem. Inst., 12 (1959), 1)}. They have recorded that holding the mixed fatty acids at room temperature for 6 weeks caused the acid value to fall from 185.8 to 122.7 and hydroxyl value from 180.8 to 119.6 (Hawke F et al.). It is also reported (K. J. Philips et al. Journal of Technology, vol 1 No. 11 (1963), 427-431)} that the acid value of the extracted sample kept at 0° C. for 5 weeks fell only by 2 units. Attempts to enrich the methyl esters of castor oil failed since these were miscible with hexane in all proportions. (K. J. Philips et al. Journal of Technology, vol 1 No. 11 (1963), 427-431)}. A paper describes the liquid-liquid equilibrium of castor oil+soybean oil+hexane ternary system (Tylisha M. Baber, Dung T. Vu and Carl. T. Lira, J. Chem. Eng. Data 2002, 47 1502-1505) at 298.15 K and reported as promising using hexane because of the significant difference between the castor oil and soybean oil K-ratios. (Ks>1 and Kc<1). During equilibration, the mixture separated into the β-phase (top, hexane-rich) and α-phase (bottom, oil-rich) containing enriched ricinoleic content. U.S. patent (U.S. Pat. No. 7,097,770 August 2006) describes a solid bed adsorptive process of separating castor oil into two substantially pure triglyceride fractions. The above cited reference works involves castor oil fractionation into triricinolein by way of which an enriched ricinoleic acid may be obtained with lesser yields. The methods where using a mixture of solvents in the fractionation of castor fatty acids resulted not only in low yields but recovery and reuse of solvents is difficult for commercial exploitation and the storage of castor fatty acids is difficult due to estolide formation.

reactant | triricinolein | CCCCCCC(O)C/C=C/CCCCCCCC(=O)OCC(OC(=O)CCCCCCC/C=C/CC(O)CCCCCC)COC(=O)CCCCCCC/C=C/CC(O)CCCCCC | C57H104O9
reactant | diricinolein | CCCCCCC(O)C/C=C\CCCCCCCC(=O)OCCOC(=O)CCCCCCC/C=C\CC(O)CCCCCC | C38H70O6
reactant | monoricinolein | CCCCCCC(C/C=C\CCCCCCCC(=O)OCC(CO)O)O | C21H40O5
product | ricinoleic acid | C(CCCCCCC\C=C/C[C@H](O)CCCCCC)(=O)O | C18H34O3
